US09108966B2
HATU (0.90 g, 2.48 mmol) was added to a solution of (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbohydrazide TFA salt (1.0 g, 2.48 mmol), acetic acid (0.12 g, 2.07 mmol) and DIPEA (1.1 g, 8.3 mmol) in dry DMF (10 mL) at 0° C. The reaction mixture was stirred at 0° C. for 1 h. The mixture was then quenched with saturated sodium chloride (50 mL) and exacted with EtOAc (3×). The combined organic layer was washed with saturated sodium chloride (2×), dried over Na2SO4, and concentrated. The residue was purified by silica gel column chromatography (gradient elution 10:1 to 1:10 petroleum ether/EtOAc) to afford (2S,5R)—N′-acetyl-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbohydrazide (0.6 g, 73%). ESI-MS (EI+, m/z): 333 [M+H]+.

reactant | HATU | 2.48 mmol, 0.90 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbohydrazide TFA salt | 2.48 mmol, 1.0 g | OC(=O)C(F)(F)F.C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NN
reactant | acetic acid | 2.07 mmol, 0.12 g | C(C)(=O)O | C2H4O2
reactant | DIPEA | 8.3 mmol, 1.1 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2S,5R)—N′-acetyl-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carbohydrazide | 0.6 g, 73% | C(C)(=O)NNC(=O)[C@H]1N2C(N([C@H](CC1)C2)OCC2=CC=CC=C2)=O | C16H20N4O4
